US04046798
500 ml. of an ethanolic solution containing 3,4-dichloro-5-nitro-α,α,α-trifluorotoluene (188 g. 0.72 mol), and platinum oxide (Adam's catalyst) (0.2 g.) is reduced at room temperature in a low pressure hydrogenation apparatus to give 5-Amino-3,4-dichloro-α,α,α-trifluorotoluene (129.9 g. 78%) b.p. 65°-70° C./1-2 mm.

reactant | 3,4-dichloro-5-nitro-α,α,α-trifluorotoluene | 0.72 mol, 188 g | ClC=1C=C(C=C(C1Cl)[N+](=O)[O-])C(F)(F)F | C7H2Cl2F3NO2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 5-Amino-3,4-dichloro-α,α,α-trifluorotoluene | 129.9 g, 78% | NC=1C(=C(C=C(C1)C(F)(F)F)Cl)Cl | C7H4Cl2F3N
